US05654316
3,4-Dichloro-beta-(2-bromoethyl)-N-methyl-N-(4-chlorophenyl)benzene propanamide
3,4-Dichloro-beta-(2-methanesulfonyloxyethyl)-N-methyl-N-(4-chlorophenyl)benzene propanamide (6.3 g) in THF (50 mL) was treated with lithium carbonate (2.0 g) and lithium bromide (2.34 g). The mixture was heated at reflux temperature for 2 hours. The cooled reaction mixture was diluted the CH2Cl2 (100 mL) and washed with H2O (2×100 mL). The organic extracts were dried over MgSO4, filtered and concentrated under reduced pressure to give the title compound as a yellow oil, (5.6 g).

reactant | 3,4-Dichloro-beta-(2-methanesulfonyloxyethyl)-N-methyl-N-(4-chlorophenyl)benzene propanamide | 6.3 g | ClC=1C=C(C=CC1Cl)C(CC(=O)N(C1=CC=C(C=C1)Cl)C)CCOS(=O)(=O)C | C19H20Cl3NO4S
reactant | lithium carbonate | 2.0 g | C([O-])([O-])=O.[Li+].[Li+]
reactant | lithium bromide | 2.34 g | [Br-].[Li+]
reactant | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3,4-Dichloro-beta-(2-bromoethyl)-N-methyl-N-(4-chlorophenyl)benzene propanamide | 5.6 g | ClC=1C=C(C=CC1Cl)C(CC(=O)N(C1=CC=C(C=C1)Cl)C)CCBr | C18H17BrCl3NO
